US07598294B2
(E)-1-(3,4-methylenedioxyphenyl)-3-(2,5-dimethoxyphenyl)prop-1-en-3-one (DMU-423)
To a stirred solution of piperonal (1 g, 6.7 mmol) and 2,5-dimethoxyacetophenone (1.21 g, 6.7 mmol) in methanol (30 ml) was added 15 equivalents of aqueous sodium hydroxide (˜8 ml, 50% w/v) and the mixture stirred for 2 h. The resultant solid was collected by filtration and then recrystallised from methanol as fine, needle-like pale yellow crystals (1.70 g, 81%): mp 101° C.; 1H NMR δ (CDCl3) 3.78 (3H, s, OCH3), 3.85 (3H, s, OCH3), 6.00 (2H, s, CH2O), 6.83 (1H, d, ArH), 6.90 (1H, d, ArH), 7.00 (3H, m, ArH), 7.15 (1H, d, ArH), 7.23 (1H, d, J=15.7 Hz, ArH), 7.52 (1H, d, J=15.8 Hz, ArH); Infra red νmax (KBr)/cm−1 1652.9 (C═O); MS (rel intensity) m/z 313 ([M+H]+, 100%); Anal.

reactant | piperonal | 6.7 mmol, 1 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 2,5-dimethoxyacetophenone | 6.7 mmol, 1.21 g | CC(=O)C1=C(C=CC(=C1)OC)OC | C10H12O3
reactant | sodium hydroxide | ˜8 ml, 15 equivalents | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(3,4-methylenedioxyphenyl)-3-(2,5-dimethoxyphenyl)prop-1-en-3-one | C1OC=2C=C(C=CC2O1)\C=C\C(=O)C1=C(C=CC(=C1)OC)OC | C18H16O5
